US08981085B2
4,5-Difluoro-1H-pyrrolo[2,3-b]pyridine (0.63 g, 4.09 mmol) was added slowly to fuming nitric acid (8.18 mL, 164 mmol) at 0° C. and stirred slowly for 5 minutes. Ice (20 g) was added followed by water (40 mL). The solid formed was collected by filtration to give 4,5-difluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine (0.65 g, 80% yield) as a solid.

reactant | 4,5-Difluoro-1H-pyrrolo[2,3-b]pyridine | 4.09 mmol, 0.63 g | FC1=C2C(=NC=C1F)NC=C2 | C7H4F2N2
reactant | nitric acid | 164 mmol, 8.18 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | 40 mL | O | H2O
product | 4,5-difluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine | 0.65 g, 80% yield | FC1=C2C(=NC=C1F)NC=C2[N+](=O)[O-] | C7H3F2N3O2
